US04713383
To a solution of 1.45 g of 5,9-dichloro-2(2-furyl)[1,2,4]triazolo[1,5-c]quinazoline in dry tetrahydrofuran (150 cc) at 50° is added gaseous methylamine over 40 minutes. The mixture is concentrated to dryness, triturated with water and filtered to afford a white solid. This is recrystallized by dissolution in hot toluene and, after several minutes of heating to remove water by azeotropic distillation, addition of cyclohexane during cooling. Pure 9-Chloro-2-(2-furyl)-5-methylamino[1,2,4]triazolo[1,5-c]quinazoline, mp 166°-168°, is thus obtained.

reactant | 5,9-dichloro-2(2-furyl)[1,2,4]triazolo[1,5-c]quinazoline | 1.45 g | ClC1=NC=2C=CC(=CC2C=2N1N=C(N2)C=2OC=CC2)Cl | C13H6Cl2N4O
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
product | 9-Chloro-2-(2-furyl)-5-methylamino[1,2,4]triazolo[1,5-c]quinazoline | ClC1=CC=2C=3N(C(=NC2C=C1)NC)N=C(N3)C=3OC=CC3 | C14H10ClN5O
